US08236792B2
(2S,4R)-2-(4-Cyclobutyl-[1,4]diazepane-1-carbonyl)-4-phenoxy-pyrrolidine-1-carboxylic acid tert-butyl ester.
To a stirred suspension of (2S,4R)-2-(4-cyclobutyl-[1,4]diazepane-1-carbonyl)-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester (116 mg, 0.32 mmol) in toluene (0.65 ml) was added iodobenzene (129 mg, 0.63 mmol), copper (I) iodide (6 mg, 0.032 mmol), 3,4,7,8-tetramethyl-1,10-phenanthroline (15 mg, 0.063 mmol), and Cs2CO3 (206 mg, 0.63 mmol). The resulting suspension was heated at 100° C. in a capped scintillation vial with stirring for 2 days. The reaction mixture was filtered through diatomaceous earth, washing with CH2Cl2. The filtrate was dried and concentrated. Purification of the residue by FCC provided the desired product (97.7 mg, 70%). MS (ESI): mass calcd. for C25H37N3O4, 443.3; m/z found, 444.3 [M+H]+. 1H NMR (CDCl3): 7.30-7.25 (m, 2H), 6.96 (dd, J=14.5, 7.2 Hz, 1H), 6.85 (dd, J=7.7, 5.5 Hz, 1H), 5.04-4.91 (m, 1H), 4.88-4.71 (m, 1H), 3.89-3.43 (m, 6H), 2.92-2.79 (m, 1H), 2.70-2.20 (m, 6H), 2.07-1.74 (m, 7H), 1.71-1.52 (m, 2H), 1.43-1.41 (m, 9H).

reactant | (2S,4R)-2-(4-cyclobutyl-[1,4]diazepane-1-carbonyl)-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.32 mmol, 116 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O)C(=O)N1CCN(CCC1)C1CCC1 | C19H33N3O4
reactant | iodobenzene | 0.63 mmol, 129 mg | IC1=CC=CC=C1 | C6H5I
reactant | 3,4,7,8-tetramethyl-1,10-phenanthroline | 0.063 mmol, 15 mg | CC=1C=NC2=C3N=CC(=C(C3=CC=C2C1C)C)C | C16H16N2
reactant | Cs2CO3 | 0.63 mmol, 206 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 0.65 ml | C1(=CC=CC=C1)C | C7H8
catalyst | copper (I) iodide | 0.032 mmol, 6 mg | [Cu]I
product | (2S,4R)-2-(4-Cyclobutyl-[1,4]diazepane-1-carbonyl)-4-phenoxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 97.7 mg, 70% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)OC1=CC=CC=C1)C(=O)N1CCN(CCC1)C1CCC1 | C25H37N3O4
